US08071643B2
Step D. Methyl-[3-(7-oxa-bicyclo[4.1.0]hept-3-yl)-propyl]-carbamic acid tert-butyl ester
(3-Cyclohex-3-enyl-propyl)-methyl-carbamic acid tert-butyl ester (14.24 g, 56.2 mmol) was treated with 3-chloroperbenzoic acid (70% purity, 14.8 g, 60 mmol, corrected) according to the method of Example 7 Step B and stirred for 3 hours at room temperature. After work up the title compound (14.6 g, 96% yield, uncorrected) was obtained as pale yellow oil.

reactant | (3-Cyclohex-3-enyl-propyl)-methyl-carbamic acid tert-butyl ester | 56.2 mmol, 14.24 g | C(C)(C)(C)OC(N(C)CCCC1CC=CCC1)=O | C15H27NO2
reactant | 3-chloroperbenzoic acid | 60 mmol, 14.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | Methyl-[3-(7-oxa-bicyclo[4.1.0]hept-3-yl)-propyl]-carbamic acid tert-butyl ester | 14.6 g, 96% yield | C(C)(C)(C)OC(N(CCCC1CC2OC2CC1)C)=O | C15H27NO3
